US07727985B2
N-(8-amino-6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide (90 mg, 0.274 mmol, 1 equiv.) and 2-methylnicotinic acid (40 mg, 0.329 mmol, 1.2 equiv.) were dissolved in 1.5 ml of anhydrous pyridine under N2. EDCI (84 mg, 0.438 mmol, 1.6 equiv.) was added in one portion and the reaction mixture was stirred at room temperature 2 hours. The reaction was quenched and treated following the preceding protocol to obtain 38 mg (32%) of N-[6-chloro-4-(2,2,2-trifluoro-acetylamino)-9H-β-carbolin-8-yl]-nicotinamide.

reactant | N-(8-amino-6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 0.274 mmol, 90 mg, 1 equiv. | NC=1C=C(C=C2C=3C(=CN=CC3NC12)NC(C(F)(F)F)=O)Cl | C13H8ClF3N4O
reactant | 2-methylnicotinic acid | 0.329 mmol, 40 mg, 1.2 equiv. | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | EDCI | 0.438 mmol, 84 mg, 1.6 equiv. | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | N-[6-chloro-4-(2,2,2-trifluoro-acetylamino)-9H-β-carbolin-8-yl]-nicotinamide | 38 mg, 32% | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)NC(C1=CN=CC=C1)=O)NC(C(F)(F)F)=O | C19H11ClF3N5O2
